US08729074B2
6-Bromo-3-(5,6-dimethoxy-3-pyridinyl)imidazo[1,2-a]pyridine
6-bromo-3-iodoimidazo[1,2-a]pyridine. To a 150 mL round bottomed flask was added 6-bromoimidazo[1,2-a]pyridine (5.00 g, 25.4 mmol), anhydrous sodium acetate (5.69 g, 69.4 mmol) and MeOH (60 mL). The resulting mixture was cooled to 0° C. followed by adding iodine (7.13 g, 28.1 mmol). After the addition, ice bath was removed. It was warmed up to rt and continued to stir for 20 h. The precipitate in the reaction mixture was collected by filtration. The precipitate was washed with MeOH and dried to afford the desired product as light grey solid (7.0 g). MS (ESI pos. ion) m/z: 322.8. Calcd exact mass for C7H4BrIN2: 321.9. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 7.30 (d, J=10.82 Hz, 1H) 7.52 (d, J=9.50 Hz, 1H) 7.71 (s, 1H) 8.29 (s, 1H).

reactant | 6-bromo-3-iodoimidazo[1,2-a]pyridine | BrC=1C=CC=2N(C1)C(=CN2)I | C7H4BrIN2
reactant | 6-bromoimidazo[1,2-a]pyridine | 25.4 mmol, 5.00 g | BrC=1C=CC=2N(C1)C=CN2 | C7H5BrN2
reactant | sodium acetate | 69.4 mmol, 5.69 g | C(C)(=O)[O-].[Na+]
reactant | iodine | 28.1 mmol, 7.13 g | II | I2
reactant | MeOH | 60 mL | CO | CH4O
product | 6-Bromo-3-(5,6-dimethoxy-3-pyridinyl)imidazo[1,2-a]pyridine | 7.0 g | BrC=1C=CC=2N(C1)C(=CN2)C=2C=NC(=C(C2)OC)OC | C14H12BrN3O2
